US05654299
c. 1-Benzyloxycarbonyl-4-(2-methoxyphenyl)piperidine
A solution of 1-benzyloxycarbonyl-4-hydroxy-4-(2-methoxyphenyl)piperidine (2.59 g) in dichloromethane (45 mL) was treated with trifluoroacetic acid (8.6 g) followed by triethylsilane (17.5 g). The resulting brown reaction mixture was stirred for 5 minutes and then poured into a saturated solution of sodium bicarbonate. The bicarbonate solution was extracted with dichloromethane. The dichloromethane solution was dried and evaporated to give the des-hydroxy compound (2.1 g); NMR (CDCl3): 1.55-1.66 (m, 2), 1.78-1.82 (br, 2), 2.91, (m, 2), 3.11 (m, 1), 3.8 and 3.82 (s, 3), 4.32 (br, 2), 5.12-5.28 (m, 2), 6.84 (d, 4, J=9), 6.87-6.95 (m, 1), 7.11-7.25 (m, 2), 7.29-7.38 (m, 5); MS: m/z=326(M+1). This material was used in the next step without further purification.

reactant | 1-benzyloxycarbonyl-4-hydroxy-4-(2-methoxyphenyl)piperidine | 2.59 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)OC)O | C20H23NO4
reactant | trifluoroacetic acid | 8.6 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 17.5 g | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-4-(2-methoxyphenyl)piperidine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)OC | C20H23NO3
